US07692033B2
Preparation of 2-benzoyloxyacetaldehyde diethyl acetal
Chloroacetaldehyde diethyl acetal (1.9 g), potassium benzoate (2.0 g) and DMF (20 mL) were placed in a three-neck flask, followed by refluxing. Twenty hours later, the reaction mixture was cooled to room temperature, and water (60 mL) and ethyl acetate (80 mL) were added thereto, followed by stirring. After filtration and separation, the organic layer was concentrated and thereby yielded the target compound (0.69 g) in a yield of 30%.

reactant | Chloroacetaldehyde diethyl acetal | 1.9 g | C(C)OC(CCl)OCC | C6H13ClO2
reactant | potassium benzoate | 2.0 g | C(C1=CC=CC=C1)(=O)[O-].[K+]
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
reactant | water | 60 mL | O | H2O
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
product | 2-benzoyloxyacetaldehyde diethyl acetal | 0.69 g, yield of 30% | C(C)OC(COC(C1=CC=CC=C1)=O)OCC | C13H18O4
